* C:\Users\dinod\Desktop\Power amplifier\Power-amplifier\Simulation\Amplifier\Output stage - HV\V3 OFFSET - POWER.asc
V1 N012 0 SINE(0 0.5 1k)
R1 N013 N012 0.0001
R2 N007 N003 470
R3 N010 N007 210
Q1 N003 N007 N010 0 BD139
Q2 +V N004 N005 0 BD139
Q3 +V N005 N006 0 tip35c
Q4 -V N008 N009 0 tip36c
Q5 -V N011 N008 0 BD140
R4 N006 Vout {Re}
R5 Vout N009 {Re}
V2 +V 0 {Vcc}
V3 0 -V {Vcc}
R6 0 Vout 8
R7 N004 N003 150
R8 N011 N010 150
R9 N005 N008 470
C1 N005 N008 1µ
C2 N003 N010 47µ
XU1 N013 N016 +V -V N014 OPA55X
R10 Vout N016 9k
R11 N015 N014 0.01
Q6 N002 N001 +V 0 BD140
R12 +V N001 47
Q7 N003 N002 N001 0 BD140
R13 N002 0 22k
R14 N016 0 1k
Q8 +V N015 N010 0 BD139
R15 N010 -V 470
R16 -V N017 {R2}
R17 N017 +V {R1}
R18 N017 N016 1Meg
C3 N015 N016 100p
.model NPN NPN
.model PNP PNP
.lib C:\Users\dinod\AppData\Local\LTspice\lib\cmp\standard.bjt
* Bias=Vbe*(1+r)\nr=Ra/Rb
.param Rtot=1k
.param Ibias=1m
.param Vcc=30
.param Rcurrent = (2*Vcc/Ibias) - Rtot
;tran 1m
.tran 0 10m 0 0.5U
.option plotwinsize=0
.option numdgt = 7
.four 10000 20 100 V(Vout)
.INCLUDE OPA55X.LIB
.param Re=0.1 R1=r*Rpot R2=(1-r)*Rpot Rpot=10k
.param r 0.5
.backanno
.end
