* C:\Users\dinod\Desktop\Audio amplifier & power supply\Simulation\PSU\SR voltage levels.asc
A1 N001 0 0 0 0 0 N002 0 SRFLOP
V1 N001 0 14
.tran 1
Vhigh=15
.backanno
.end
