* C:\Users\dinod\Desktop\Audio amplifier & power supply\Simulation\PSU\Rectifier\Rectifier comparison.asc
D1 V- N005 D
D2 N005 V+ D
D3 V- N006 D
D4 N006 V+ D
V1 N005 0 SINE(0 21 50)
V2 0 N006 SINE(0 21 50)
C1 V+ 0 4700µ
C2 0 V- 4700µ
R1 V+ 0 6
R2 0 V- 6
V3 N001 0 SINE(0 21 50)
V4 0 N003 SINE(0 21 50)
D5 N001 N002 D
D6 N004 N003 D
C3 N002 0 1000µ
C4 0 N004 1000µ
R3 N002 0 100
R4 0 N004 100
.model D D
.lib C:\Users\dinod\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200m
.backanno
.end
